* gnetlist -g spice-sdb -o op-amp-push-pull.net op-amp-push-pull.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 2N5684.LIB vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 20, 03
* MODEL FORMAT: PSpice
.MODEL Q2n5684 pnp
+IS=2.88627e-10 BF=153.433 NF=1.31495 VAF=10.9572
+IKF=8.04767 ISE=4.96008e-12 NE=3.77108 BR=2.44858
+NR=1.45953 VAR=4.41019 IKR=8.07989 ISC=6.51558e-13
+NC=3.91979 RB=2.90004 IRB=0.0849747 RBM=9.99999e-07
+RE=0.000206686 RC=0.0285119 XTB=0.401183 XTI=1
+EG=1.05 CJE=4.713e-09 VJE=0.633616 MJE=0.466516
+TF=1e-08 XTF=7.48948 VTF=11.2689 ITF=1e-06
+CJC=4.64739e-09 VJC=0.568709 MJC=0.408059 XCJC=0.799959
+FC=0.800003 CJS=0 VJS=0.75 MJS=0.5
+TR=5.05928e-07 PTF=0 KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 2N5684.LIB ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from 2N5686.LIB vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 20, 03
* MODEL FORMAT: PSpice
.MODEL Q2n5686 npn
+IS=5.08491e-10 BF=118.495 NF=1.09689 VAF=8.40338
+IKF=8.29427 ISE=4e-12 NE=3.8125 BR=2.95802
+NR=1.22397 VAR=19.6199 IKR=7.63964 ISC=5.5e-13
+NC=3.9375 RB=2.01968 IRB=0.0914106 RBM=0.0928857
+RE=9.35428e-05 RC=0.0242599 XTB=1.88681 XTI=1.01268
+EG=1.05 CJE=3.6623e-09 VJE=0.4 MJE=0.430208
+TF=1.00023e-08 XTF=7.94968 VTF=10.3944 ITF=0.00100001
+CJC=2.93981e-09 VJC=0.0229324 MJC=0.235406 XCJC=0.799979
+FC=0.800006 CJS=0 VJS=0.75 MJS=0.5
+TR=3.60318e-07 PTF=0 KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 2N5686.LIB ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from LT1007CS.txt vvvvvvvv
* Version 2.0 Copyright © Linear Technology Corp. 10/19/04. All rights reserved.
*
.SUBCKT LT1007CS   3 2 7 4 6   ;(+IN -IN V+ V- OUT)
XLT1007CS 3 2 7 4 6 LT1007
.ENDS LT1007CS
*
*
.SUBCKT LT1007 3 2 7 4 6
RC1 7 80 663.15
RC2 7 90 663.15
Q1 80 2 10 QM1
Q2 90 3 11 QM2
*
C1 80 91 200E-12
RXC1 91 90 50
CXC1 91 90 500E-12
C2 8 98 4e-12
RXC2 8 98 4.00K
CXC2 1 98 2.7e-11
*
CIN 3 2 5E-12
DDM1 2 104 DM2
DDM3 104 3 DM2
DDM2 3 105 DM2
DDM4 105 2 DM2
RE1 10 12 -26.233
RE2 11 12 -26.233
IEE 12 4 7.503e-5
RE 12 0 2666000
CE 12 0 1.579E-12
GCM 0 8 12 0 7.558E-10
GA 8 0 80 90 0.001508
R2 8 0 100000
GB 1 0 8 0 1917.6
RO2 1 0 69
*
RS 1 6 1
ECL 18 0 1 6 28.28
GCL 0 8 20 0 1
RCL 20 0 1E3
D1 18 20 DM1
D2 20 18 DM1
*
D3A 131 70 DM3
D3B 13 131 DM3
GPL 0 8 70 7 1
VC 13 6 3.0909
RPLA 7 70 1E4
RPLB 7 131 1E5
D4A 60 141 DM3
D4B 141 14 DM3
GNL 0 8 60 4 1
VE 6 14 3.0909
RNLA 60 4 1E4
RNLB 141 4 1E5
*
IP 7 4 0.002625
DSUB 4 7 DM2
* MODELS
.MODEL QM1 NPN(IS=8e-16 BF=1785.7)
.MODEL QM2 NPN(IS=8.0062E-16 BF=4166.7)
.MODEL DM1 D(IS=1e-19)
.MODEL DM2 D(IS=8e-16)
.MODEL DM3 D(IS=1e-20)
.ENDS LT1007
*
*^^^^^^^^  End of included SPICE model from LT1007CS.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Rb2 0 4 100k  
Rb1 4 1 100k  
C2 OUT 2 4700u  
XU1 4 OUT 1 0 3 LT1007
Vin IN 0 sin 0 1 3k
C1 IN 4 1u  
Q1 0 3 OUT Q2n5684 
Q2 1 3 OUT Q2n5686 
R 2 0 8  
V1 1 0 15
.end
