* gnetlist -g spice-sdb -o push-pull.net push-pull.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 2N5684.LIB vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 20, 03
* MODEL FORMAT: PSpice
.MODEL Q2n5684 pnp
+IS=2.88627e-10 BF=153.433 NF=1.31495 VAF=10.9572
+IKF=8.04767 ISE=4.96008e-12 NE=3.77108 BR=2.44858
+NR=1.45953 VAR=4.41019 IKR=8.07989 ISC=6.51558e-13
+NC=3.91979 RB=2.90004 IRB=0.0849747 RBM=9.99999e-07
+RE=0.000206686 RC=0.0285119 XTB=0.401183 XTI=1
+EG=1.05 CJE=4.713e-09 VJE=0.633616 MJE=0.466516
+TF=1e-08 XTF=7.48948 VTF=11.2689 ITF=1e-06
+CJC=4.64739e-09 VJC=0.568709 MJC=0.408059 XCJC=0.799959
+FC=0.800003 CJS=0 VJS=0.75 MJS=0.5
+TR=5.05928e-07 PTF=0 KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 2N5684.LIB ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from 2N5686.LIB vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 20, 03
* MODEL FORMAT: PSpice
.MODEL Q2n5686 npn
+IS=5.08491e-10 BF=118.495 NF=1.09689 VAF=8.40338
+IKF=8.29427 ISE=4e-12 NE=3.8125 BR=2.95802
+NR=1.22397 VAR=19.6199 IKR=7.63964 ISC=5.5e-13
+NC=3.9375 RB=2.01968 IRB=0.0914106 RBM=0.0928857
+RE=9.35428e-05 RC=0.0242599 XTB=1.88681 XTI=1.01268
+EG=1.05 CJE=3.6623e-09 VJE=0.4 MJE=0.430208
+TF=1.00023e-08 XTF=7.94968 VTF=10.3944 ITF=0.00100001
+CJC=2.93981e-09 VJC=0.0229324 MJC=0.235406 XCJC=0.799979
+FC=0.800006 CJS=0 VJS=0.75 MJS=0.5
+TR=3.60318e-07 PTF=0 KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 2N5686.LIB ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Vin IN 0 sin 0 1 3k
C2 IN 3 1u  
C1 IN 4 1u  
Rb3 3 4 0  
Rb2 3 2 10k  
Rb1 4 1 10k  
V2 2 0 15
Q1 1 4 OUT Q2n5684 
Q2 2 3 OUT Q2n5686 
R OUT 0 8  
V1 0 1 15
.end
