* gnetlist -g spice-sdb -o boost.net boost.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 1n5822.txt vvvvvvvv
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* April 2001
*   SPICE3
.subckt d1n5822 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 2.37487E-007 n = 1.98477 rs = 0.0171579
+ eg = 1.79999 xti = 3.99991
+ cjo = 5.47556E-010 vj = 1.64135 m = 0.603662 fc = 0.5
+ tt = 1.4427E-009 bv = 48.4 ibv = 3.5 af = 1 kf = 0
.model grd d is = 1.27781E-005 n = 1.2149 rs = 0.0250254
+ eg = 0.55507 xti = 0.794212
.ends
*^^^^^^^^  End of included SPICE model from 1n5822.txt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from irf530.lib vvvvvvvv
*Feb 16, 2010
*Doc. ID: 90181, Rev. A
*File Name: part irf530_PS.txt and part irf530_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product data sheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT irf530 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.87932 LAMBDA=0.00393789 KP=7.05019
+CGSO=6.11314e-06 CGDO=1e-11
RS 8 3 0.073836
D1 3 1 MD
.MODEL MD D IS=9.70956e-10 RS=0.0137423 N=1.31938 BV=300
+IBV=0.00025 EG=1 XTI=4 TT=1e-07
+CJO=1.03141e-09 VJ=1.46661 M=0.501224 FC=0.5
RDS 3 1 4e+06
RD 9 1 0.0001
RG 2 7 9.77071
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=7.50724e-10 VJ=0.801667 M=0.67327 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.401518 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 7.50724e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.401518
.ENDS

*^^^^^^^^  End of included SPICE model from irf530.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.PARAM D={1 - 3.3/10}
C OUT 0 100u  
V2 CP1 0 pulse 0 10 0 1p 1p {20u*D} 20u
X2 CP2 CP1 0 irf530 
R 0 OUT 5  
X1 CP2 OUT d1n5822 
L 1 CP2 74u 
V1 1 0 3.3
.end
