* gnetlist -g spice-sdb -o demorgan.net demorgan.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nand.lib vvvvvvvv
.SUBCKT NAND IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ7 OUT IN1 2 2 nMOSe 
MQ8 2 IN2 GND GND nMOSe 
MQ6 OUT IN2 Vcc Vcc pMOSe 
MQ5 OUT IN1 Vcc Vcc pMOSe 
.ENDS NAND
*^^^^^^^^  End of included SPICE model from nand.lib ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from nor.lib vvvvvvvv
.SUBCKT NOR IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ3 OUT IN2 GND GND nMOSe
MQ4 OUT IN1 GND GND nMOSe
MQ1 1 IN2 Vcc Vcc pMOSe
MQ2 OUT IN1 1 1 pMOSe
.ENDS NOR
*^^^^^^^^  End of included SPICE model from nor.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
XU6 1 4 OR Vcc 0 NAND
XU5 IN2 IN2 4 Vcc 0 NAND
XU3 2 3 AND Vcc 0 NOR
XU2 IN2 IN2 3 Vcc 0 NOR
XU1 IN1 IN1 2 Vcc 0 NOR
V3 IN2 0 DC
V2 IN1 0 DC
V1 Vcc 0 3
XU4 IN1 IN1 1 Vcc 0 NAND
.end
