* gnetlist -g spice-sdb -o logic-gate.net logic-gate.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nMOSe.txt vvvvvvvv
.model nMOSe nmos (vto=1)
*^^^^^^^^  End of included SPICE model from nMOSe.txt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from pMOSe.txt vvvvvvvv
.model pMOSe pmos (vto=-1)
*^^^^^^^^  End of included SPICE model from pMOSe.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
MQ7 NAND IN1 2 2 nMOSe 
MQ8 2 IN2 0 0 nMOSe 
MQ6 NAND IN2 Vcc Vcc pMOSe 
MQ5 NAND IN1 Vcc Vcc pMOSe 
V3 IN2 0 DC
V2 IN1 0 DC
MQ3 NOR IN2 0 0 nMOSe 
MQ4 NOR IN1 0 0 nMOSe 
MQ1 1 IN2 Vcc Vcc pMOSe 
MQ2 NOR IN1 1 1 pMOSe 
V1 Vcc 0 3
.end
