* gnetlist -g spice-sdb -o all.net all.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nMOSe.txt vvvvvvvv
.model nMOSe nmos (vto=1)
*^^^^^^^^  End of included SPICE model from nMOSe.txt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from nMOSd.txt vvvvvvvv
.model nMOSd nmos (vto=-1)
*^^^^^^^^  End of included SPICE model from nMOSd.txt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from nJFET.txt vvvvvvvv
.model nJFET njf 
*^^^^^^^^  End of included SPICE model from nJFET.txt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
VnJFET 4 0 10
VnMOSd 3 0 10
J1 2 0 4 nJFET
M2 3 2 0 0 nMOSd 
M1 1 2 0 0 nMOSe 
Vin 2 0 DC
VnMOSe 1 0 10
.end
